US06872833B2
(+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(2,2,2-trifluoro-ethoxy)-isonicotinamide
From (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride and 2,2,2-trifluoroethanol in dioxane and DMF. [α]D20=+11.3° (c=0.11, CHCl3), ES-MS m/e (%): 470 (M+H+, 100).

reactant | (+)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide sodium hydride | [H-].[Na+].BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (+)-N-(7-[1,4]Dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-(2,2,2-trifluoro-ethoxy)-isonicotinamide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)OCC(F)(F)F)=O)OC | C20H18F3N3O5S
